US08168412B2
After two hours in reaction, 1.25 g of N-Boc-3-piperidinone, 1.7 g of D-glucose, 1.0 g of L-alanine, and 3.3 mg of pyridoxal phosphate were added. Further, after five hours in reaction, 1.25 g of N-Boc-3-piperidinone, 1.7 g of D-glucose, and 3.3 mg of pyridoxal phosphate were added. During the reaction, the reaction liquid was sampled. From the sample, N-Boc-3-aminopiperidine was extracted by the addition of ethyl acetate after basifying the sample with 6 N aqueous solution of sodium hydroxide. The amount of N-Boc-3-aminopiperidine produced was measured by analyzing N-Boc-3-aminopiperidine under the following GC conditions. Further, by the law of the art, N-Boc-3-aminopiperidine thus obtained was acted on by 3,5-dinitrobenzyl chloride to form a dinitrobenzyl derivative. After that, the dinitrobenzyl derivative was analyzed under the following HPLC conditions, whereby the optical purity thereof was measured. In the result, the amount of N-Boc-3-aminopyrrolidine produced after 23.5 hours in reaction was 3.13 g. The absolute configuration of N-Boc-3-aminopyrrolidine was (S), and the optical purity was not less than 99.9% e.e.

reactant | N-Boc-3-piperidinone | 1.25 g | C(=O)(OC(C)(C)C)N1CC(CCC1)=O | C10H17NO3
reactant | D-glucose | 1.7 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | L-alanine | 1.0 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | pyridoxal phosphate | 3.3 mg | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
reactant | N-Boc-3-piperidinone | 1.25 g | C(=O)(OC(C)(C)C)N1CC(CCC1)=O | C10H17NO3
reactant | D-glucose | 1.7 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | pyridoxal phosphate | 3.3 mg | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
product | N-Boc-3-aminopiperidine | C(=O)(OC(C)(C)C)N1CC(CCC1)N | C10H20N2O2
